US08492397B2
HOBt.
H2O: 1H-benzotriazole monohydrate

reactant | 1H-benzotriazole monohydrate | O.N1N=NC2=C1C=CC=C2
solvent | H2O | O | H2O
product | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
